US06147105
1.2. Preparation of 5-methoxy-2-(4-methoxyphenyl)-3-methylindole
0.38 mol of p-anisidine is added to 75 ml of N,N-dimethylaniline in a 1 liter reaction flask, heated to 170° C. while being stirred and then a solution of 0.18 mol of 2-bromo-4'-methoxypropiophenone in 240 ml of o-xylene is added in drops at this temperature. The strongly foaming mixture is refluxed for another 3 hours. After the solution is cooled, it is poured onto 600 ml of 2N HCl, stirred thoroughly and extracted three times with ethyl acetate. The organic extracts are washed twice each with 2N HCl and water, dried on magnesium sulfate (MgSO4) and liberated of solvent. For purification, the crude product is chromatographed on silica gel 60 with CH2Cl2 and then recrystallized from 96% ethanol.

reactant | p-anisidine | 0.38 mol | COC1=CC=C(C=C1)N | C7H9NO
reactant | N,N-dimethylaniline | 75 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-bromo-4'-methoxypropiophenone | 0.18 mol | BrC(C(=O)C1=CC=C(C=C1)OC)C | C10H11BrO2
reactant | HCl | 2N, 600 ml | Cl | ClH
solvent | o-xylene | 240 ml | CC=1C=CC=CC1C | C8H10
product | 5-methoxy-2-(4-methoxyphenyl)-3-methylindole | COC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)OC)C | C17H17NO2
